US05491173
Z-4-chloro-1-(4-hydroxyphenyl) -1-[4-[2-(N,N-dimethylamino)ethoxy]phenyl]-2-phenyl-1-butene
8.4 g of 4-chloro-1-(4-benzyloxyphenyl)-1-[4-[2-(N,N-dimethylamino )-ethoxy]phenyl]-2-phenyl-1-butene is hydrogenated in 340 ml of ethanol-ethyl acetate (1: 1) containing 11 drops of triethylamine using 5%Pd--C as a catalyst. The catalyst is filtered off and the solvent is evaporated. The residue is treated with ethanol and the product is filtered. The yield is 4.9 g (71%).

reactant | 4-chloro-1-(4-benzyloxyphenyl)-1-[4-[2-(N,N-dimethylamino )-ethoxy]phenyl]-2-phenyl-1-butene | 8.4 g | ClCCC(=C(C1=CC=C(C=C1)OCCN(C)C)C1=CC=C(C=C1)OCC1=CC=CC=C1)C1=CC=CC=C1 | C33H34ClNO2
solvent | ethanol ethyl acetate | 340 ml | C(C)O.C(C)(=O)OCC
catalyst | triethylamine | 11 drops | C(C)N(CC)CC | C6H15N
product | Z-4-chloro-1-(4-hydroxyphenyl) -1-[4-[2-(N,N-dimethylamino)ethoxy]phenyl]-2-phenyl-1-butene | ClCC/C(=C(/C1=CC=C(C=C1)OCCN(C)C)\C1=CC=C(C=C1)O)/C1=CC=CC=C1 | C26H28ClNO2
